US05292732
2-(2-Bromoethyl)-1,3-dioxolane (4.5 ml) was added dropwise within 15 minutes under argon and while stirring at a maximum 30° C. to a suspension of Rieke magnesium, prepared from 5.1 g of magnesium chloride, in 150 ml of absolute tetrahydrofuran. The suspension was stirred at room temperature for 30 minutes, cooled to -70° C. and treated within 10 minutes with 6.1 g of N-methoxy-N-methyl-1,3-benzodioxol-5-carboxamide. The reaction mixture was stirred at -70° C. for 30 minutes and at room temperature for 2 hours and subsequently hydrolyzed with 100 ml of saturated ammonium chloride solution while cooling at a maximum 20° C. After the addition of 50 ml of water the mixture was extracted once with 150 ml of ethyl acetate and twice with 100 ml of ethyl acetate each time. The combined organic extracts were dried over MgSO4 and freed from solvent. The residue, 8.0 g of yellow oil, was chromatographed on 490 g of silica gel with ethyl acetate/hexane (1:5) as the eluent. 5.3 g (72%) of 1-(1,3-benzodioxol-5-yl)-3-(1,3-dioxol-2-yl)-1-propanone were isolated as a colourless solid. A sample crystallized colourless from a 20-fold amount of diethyl ether and melted at 94°-96° C.

reactant | 2-(2-Bromoethyl)-1,3-dioxolane | 4.5 ml | BrCCC1OCCO1 | C5H9BrO2
reactant | magnesium | [Mg] | Mg
reactant | magnesium chloride | 5.1 g | [Cl-].[Mg+2].[Cl-]
reactant | N-methoxy-N-methyl-1,3-benzodioxol-5-carboxamide | 6.1 g | CON(C(=O)C1=CC2=C(OCO2)C=C1)C | C10H11NO4
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 1-(1,3-benzodioxol-5-yl)-3-(1,3-dioxol-2-yl)-1-propanone | 5.3 g, 72% | O1COC2=C1C=CC(=C2)C(CCC2OC=CO2)=O | C13H12O5
